US04684653
2,4-Diamino-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine
A solution of 1.27 g of 2,4-diamino-6-[2-(4-tert-butoxycarbonylphenyl)ethenyl]pyrido[2,3-d]pyrimidine and 10 mL 88% formic acid was stirred at room temperature. A yellow solid started to form after about 12 hours and after 4 days of stirring, the reaction mixture was filtered. The collected solid was washed well successively with water, methanol, and acetone and was then dried under reduced pressure to give 0.85 g (79%) of the title compound, which can be alternatively named as 2,4-diamino-6-(4-carboxystyryl)-5-deazapteridine, mp >300° C.

reactant | 2,4-diamino-6-[2-(4-tert-butoxycarbonylphenyl)ethenyl]pyrido[2,3-d]pyrimidine | 1.27 g | NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)OC(C)(C)C)N | C20H21N5O2
solvent | formic acid | 10 mL | C(=O)O | CH2O2
product | 2,4-Diamino-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine | 0.85 g, 79% | NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)O)N | C16H13N5O2
